US05578620
3-(7-phenylheptyloxy)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 1.1 g of 7-phenylheptyloxymethyloxirane (prepared as described in Preparation 67), 1.4 g of sodium azide, 15 ml of methyl formate and 60 ml of an 8:1 by volume mixture of methanol and water were used, to give 1.27 g of the title compound having an Rf value of 0.45 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 7-phenylheptyloxymethyloxirane | 1.1 g | C1(=CC=CC=C1)CCCCCCCOCC1OC1 | C16H24O2
reactant | sodium azide | 1.4 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 15 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(7-phenylheptyloxy)-2-hydroxypropylazide | 1.27 g | C1(=CC=CC=C1)CCCCCCCOCC(CN=[N+]=[N-])O | C16H25N3O2
